US05102897
Thiophosgene (1.6 mL, 21.0 mmol) is added dropwise to a -78° C. solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (5.0 g, 21.0 mmol) and N,N-diisopropylethylamine (5.4 mL, 31.4 mmol) in toluene/dichloromethane (100 mL/20 mL). The reaction mixture is stirred for 1.5 hours then poured into a separatory funnel containing ethyl acetate and water. The aqueous phase is acidified to pH 3 with 1N hydrochloric acid. The organic phase is washed twice with water, then with a saturated solution of sodium bicarbonate followed by brine. Drying the organic phase over magnesium sulfate and evaporation of the solvents gives a crude product which is dissolved in dichloromethane (200 mL) and cooled to 0° C. Hydrazine monohydrate (1.5 mL, 31.0 mmol) is added in three portions at 30 minute intervals, and the solution is stirred for 1 hour. The reaction is poured into ethyl acetate and washed four times with an aqueous solution of sodium chloride and once with a saturated solution of sodium chloride. Drying the organic phase over magnesium sulfate and evaporation gives an amorphous solid which is crystallized from 50 mL of ethyl acetate/hexane (5/95) affording 3.5 g (53% from 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol) of 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl hydrazinecarbodithioate, mp 145.5°-146.0° C.

reactant | Thiophosgene | 21.0 mmol, 1.6 mL | C(=S)(Cl)Cl | CCl2S
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 21.0 mmol, 5.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N,N-diisopropylethylamine | 31.4 mmol, 5.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Hydrazine monohydrate | 31.0 mmol, 1.5 mL | O.NN
solvent | toluene dichloromethane | 100 mL | C1(=CC=CC=C1)C.ClCCl
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl hydrazinecarbodithioate | 3.5 g, 53% | N(N)C(=S)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24N2OS2
